US04209625
A solution of 3.4 g of 6-chloro-1'-cyano-1-(2-fluorophenyl)spiro[indoline-3,4'-piperidine], Example 26, in 50 ml of tetrahydrofuran is added dropwise to a refluxing slurry of 1.0 g of lithium aluminum hydride in 50 ml of tetrahydrofuran. After total addition the mixture is stirred at reflux for 2.5 hours before being treated with water and alkali. The resulting oily product, in ether, is converted to its maleic acid salt which is recrystallized from an ethyl alcohol-ether mixture to provide off-white granules, mp 174.5°-175.5° C. of 6-chloro-1-(2-fluorophenyl)spiro[indoline-3,4'-piperidine] meleate.

reactant | 6-chloro-1'-cyano-1-(2-fluorophenyl)spiro[indoline-3,4'-piperidine] | 3.4 g | ClC1=CC=C2C(=C1)N(CC21CCN(CC1)C#N)C1=C(C=CC=C1)F | C19H17ClFN3
reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-chloro-1-(2-fluorophenyl)spiro[indoline-3,4'-piperidine] | ClC1=CC=C2C(=C1)N(CC21CCNCC1)C1=C(C=CC=C1)F | C18H18ClFN2
